US04333951
3-Methylthio-7-methyl-4-phenylindolin-2-one
A solution of 30.6 grams (0.13 mole) of 3-amino-4-methylbiphenyl in 400 milliliters of methylene chloride is cooled to -65° C. and treated with 17.0 grams (0.13 mole) of ethyl 2-methylthioacetate and then 14.2 grams (0.132 mole) of t-butylhypochlorite while maintaining the temperature below -60° C. The reaction mixture is stirred at -65° C. for 1.5 hours, treated with 13.3 grams (0.132 mole) of triethyl amine and allowed to warm to ambient temperature. The solution is washed twice with water and concentrated. The residue is dissolved in 200 milliliters of methanol, 40 milliliters of 3 N hydrochloric acid are added, and the mixture refluxed overnight. The solution is concentrated until a solid begins to precipitate. The mixture is cooled, and the solid collected by filtration.

reactant | 3-amino-4-methylbiphenyl | 0.13 mole, 30.6 grams | NC=1C=C(C=CC1C)C1=CC=CC=C1 | C13H13N
reactant | ethyl 2-methylthioacetate | 0.13 mole, 17.0 grams | CCC(=S)OCC | C5H10OS
reactant | t-butylhypochlorite | 0.132 mole, 14.2 grams | C(C)(C)(C)OCl | C4H9ClO
reactant | triethyl amine | 0.132 mole, 13.3 grams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 400 milliliters | C(Cl)Cl | CH2Cl2
product | 3-Methylthio-7-methyl-4-phenylindolin-2-one | CSC1C(NC2=C(C=CC(=C12)C1=CC=CC=C1)C)=O | C16H15NOS
